US09382265B2
(a) (R) 4-cyano-3-methoxyl butyric acid ethyl ester
(R)4-cyano-3-hydroxy butyric acid ethyl ester (1.5 g, 9.54 mmol) was dissolved in iodomethane (20 ml). Silver oxide solid (3.3 g, 14.32 mmol) was added, and the reaction mixture was agitated at room temperature overnight. TLC (PE/EA=2/1) was employed to monitor the reaction. After the reaction completed, the silver oxide solid was removed by filtration, and the solvent was evaporated. Column chromatography (PE/EA=10/1) afforded colorless transparent liquid 1.0 g, yield 63.1%.

reactant | (R)4-cyano-3-hydroxy butyric acid ethyl ester | 9.54 mmol, 1.5 g | C(C)OC(C[C@@H](CC#N)O)=O | C7H11NO3
reactant | EA | CC(OCC)=O | C4H8O2
solvent | iodomethane | 20 ml | IC | CH3I
catalyst | Silver oxide | 14.32 mmol, 3.3 g | [Ag]=O
product | 4-cyano-3-methoxyl butyric acid ethyl ester | 1.0 g, yield 63.1% | C(C)OC(CC(CC#N)OC)=O | C8H13NO3
